US05958942
i) Synthesis of 5-chloromethylimidazo(1,2-a]pyridine·hydrochloride
To a solution consisting of 58.4 ml (800 mmol) of thionyl chloride and 100 ml of methylene chloride was added 23.68 g (160 mmol) of 5-hydroxymethylimidazo[1,2-a]pyridine with small portions. The reaction mixture was stirred for one hour at room temperature. Then, the solvent and excess amount of thionyl chloride were distilled off under reduced pressure. To the resulting white solid residue was added 100 ml of toluene. The mixture was shaken sufficiently, then the solvent was distilled off under reduced pressure. This process was repeated twice to give 31.85 g (98.0%, white solid) of a crude product.

reactant | thionyl chloride | 800 mmol, 58.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-hydroxymethylimidazo[1,2-a]pyridine | 160 mmol, 23.68 g | OCC1=CC=CC=2N1C=CN2 | C8H8N2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-chloromethylimidazo(1,2-a]pyridine·hydrochloride | ClCC1=CC=CC=2N1C=CN2.Cl | InChI=1S/C8H7ClN2.ClH/c9-6-7-2-1-3-8-10-4-5-11(7)8;/h1-5H,6H2;1H
